US05455237
3-(2-Bromophenyl)-6-(2,6-difluorophenyl)-1,2,4,5-tetrazine
0.94 g (1.05 equivalent) of 2,6-difluorobenzoyl chloride is added dropwise to a mixture containing 1.1 g of (2-bromobenzoyl)hydrazine, 3 ml of dimethylformamide and 0.5 ml of pyridine under cooling. The suspension obtained is stirred at room temperature for 30 minutes, then poured into water. The solid precipitate is separated by filtration and dried to give the desired product as white crystals in a yield of 1.35 g.

reactant | 2,6-difluorobenzoyl chloride | 0.94 g, 1.05 equivalent | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | (2-bromobenzoyl)hydrazine | 1.1 g | BrC1=C(C(=O)NN)C=CC=C1 | C7H7BrN2O
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-(2-Bromophenyl)-6-(2,6-difluorophenyl)-1,2,4,5-tetrazine | BrC1=C(C=CC=C1)C=1N=NC(=NN1)C1=C(C=CC=C1F)F | C14H7BrF2N4
